US06114334
A stirred mixture of methyl pyridine-3-carboximidate (10.6 g), alanine ethyl ester monohydrochloride (10 g), triethylamine (8.4 ml) and tetrahydrofuran (250 ml) was heated under reflux under nitrogen for 5 hours then allowed to cool to ambient temperature. The resulting solid was collected by filtration and washed with tetrahydrofuran. The filtrate and washings were combined and the solvent removed in vacuo. The residue was triturated with a 1:1 mixture of ether and ethyl acetate, and the resulting solid was collected by filtration and washed with ether. The two crops of solid were combined, suspended in water (130 ml), and the mixture was stirred at ambient temperature for 1 hour. The resulting solid was collected by filtration and dried in vacuo to give 4-methyl-2-(3-pyridyl)-2-imidazolin-5-one as a yellow solid (4.9 g), m.p. 238-241° C.

reactant | methyl pyridine-3-carboximidate | 10.6 g | N1=CC(=CC=C1)C(OC)=N | C7H8N2O
reactant | alanine ethyl ester monohydrochloride | 10 g | Cl.C(C)OC([C@@H](N)C)=O
reactant | triethylamine | 8.4 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-methyl-2-(3-pyridyl)-2-imidazolin-5-one | 4.9 g | CC1N=C(NC1=O)C=1C=NC=CC1 | C9H9N3O
